US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(pyrid-4-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine (710 mg, 1.19 mmol), 4-(chloromethyl)pyridine hydrochloride (794 mg, 4.84 mmol), potassium carbonate (1.337 g, 9.67 mmol) in acetone (21 mL) and water (7 mL). Stir and heat at reflux for 24 h. Allow reaction mixture to cool to room temperature, and remove the acetone under vacuum. Add ethyl acetate, separate the organic layer and extract with saturated aqueous NaCl solution. Dry the organic layer over anhydrous Na2SO4, filter and concentrate in vacuo. Chromatograph the residue on silica gel eluting with 30% methanol/ethyl acetate to give the title compound: Rf=0.16 (silica gel, 20% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | 1.19 mmol, 710 mg | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C35H40N4O5
reactant | 4-(chloromethyl)pyridine hydrochloride | 4.84 mmol, 794 mg | Cl.ClCC1=CC=NC=C1
reactant | potassium carbonate | 9.67 mmol, 1.337 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 21 mL | CC(=O)C | C3H6O
solvent | water | 7 mL | O | H2O
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(pyrid-4-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=NC=C2)C=CC=C3)C=C(C1OC)OC | C41H45N5O5
